US05831134
2-Methyl-3-buten-2-ol, 2-propanol and tert.-butyl peroxy pivalate (75% solution in aliphates) are reacted in a molar ratio of 1:15:0.3 at 90° C. and a pressure of 500 kPa as described in example 1. After a contact period of 20 minutes of the reaction mixture in a tube reactor 95% of the olefin used has been converted. 2,5-dimethylhexane-2,5-diol is formed with a selectivity of 76%.

reactant | 2-Methyl-3-buten-2-ol | CC(C)(C=C)O | C5H10O
solvent | 2-propanol | CC(C)O | C3H8O
product | 2,5-dimethylhexane-2,5-diol | CC(C)(CCC(C)(O)C)O | C8H18O2
